US08080552B2
1-[4-(Cyano-dimethyl-methyl)-phenyl]-3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
188 mg (1.16 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 175 mg (1.09 mmol) 4-(cyano-dimethyl-methyl)-phenylamine (Hicks, T. A., J. Med. Chem. 22 (1979) 1460-1464) in 4.0 ml dichloro-methane and stirred for 12 h. A solution of 284 mg (1.09 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 6 ml dichloromethane was added within 30 min. and the mixture stirred for 12 h at r.t. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel (ethyl acetate). The obtained material was left overnight with dichloromethane, the precipitate filtered, washed with ether and dried. Yield: 180 mg (37%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 1.16 mmol, 188 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(cyano-dimethyl-methyl)-phenylamine | 1.09 mmol, 175 mg | C(#N)C(C1=CC=C(C=C1)N)(C)C | C10H12N2
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.09 mmol, 284 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | dichloro-methane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-[4-(Cyano-dimethyl-methyl)-phenyl]-3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | C(#N)C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO)(C)C | C24H26N6O3
